US07238808B2
Step 1: 5-Ethoxy-2-nitro-4-trifluoromethyl-phenylamine
To EtOH (500 mL) was added potassium metal (ca. 21 g, ca. 537 mmol), and the vigorous reaction had to be cooled with an ice bath. Stirring was continued until all potassium metal was dissolved. Solid commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375–74–7 (57.74 g, 240 mmol) was added in one portion, and the resulting dark red mixture was stirred at 55–60° C. for 4 days. The warm reaction mixture was slowly poured into H2O (ca. 2000 mL), adjusted pH with conc. HCl to pH 2, the yellow precipitate was filtered off, washed with H2O and dried in air at 60° C. to give a yellow solid (57.81 g, 96%), which was used without further purification. MS (ISN) 249 [M−H].

reactant | EtOH | 500 mL | CCO | C2H6O
reactant | potassium | ca. 537 mmol, ca. 21 g | [K] | K
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | HCl | Cl | ClH
solvent | H2O | ca. 2000 mL | O | H2O
product | 5-Ethoxy-2-nitro-4-trifluoromethyl-phenylamine | 57.81 g, 96% | C(C)OC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C9H9F3N2O3
